US05670656
Preparation of Compound 8: 3-t-Butylcarbamoyloxy-1(pyridin-3-yl) pyrrolidin-2-one
By a procedure similar to that described in Example 1, 3-aminopyridine (0.47 g), scaled to 3-t-butylcarbamoyloxytetrahydrofuran-2-one (1.0 g) etc., gave a crude product (3.1 g) containing approximately 20 mole % of 2-t-butylcarbamoyloxy-4-iodo-N(pyridin-3-yl)butanamide. The desired product was apparently unstable in the mixture and to chromatography on silica. NMR (CDCl3) for product only: δ 1.38(9H,s); 2.46(2H,m); 3.25(2H,t); 5.12(1H,bs); 5.25(1H,dd); 7.29(1H,m): 8.17(1H,dd); 8.36(1H,dd); 8.58(1H,d). Base-catalysed cyclisation of this crude material gave Compound 8 (0.18 g, m.p. 129°-131° C.) after several chromatographic separations on silica using dichloromethane-ethanol (19:1) as eluant. NMR (CDCl3): δ 1.35(9H,s); 2.12(1H,m); 2.77(1H,m); 3.86(2H,m); 4.90(1H,bs); 5.36(1H,t); 7.33(1H,dd); 8.28(1H,m); 8.44(1H,dd); 8.76(1H,d). MS: M+ 277.

reactant | 3-aminopyridine | 0.47 g | NC=1C=NC=CC1 | C5H6N2
reactant | 3-t-butylcarbamoyloxytetrahydrofuran-2-one | 1.0 g | C(C)(C)(C)NC(=O)OC1C(OCC1)=O | C9H15NO4
reactant | 2-t-butylcarbamoyloxy-4-iodo-N(pyridin-3-yl)butanamide | C(C)(C)(C)NC(=O)OC(C(=O)NC=1C=NC=CC1)CCI | C14H20IN3O3
product | 3-t-Butylcarbamoyloxy-1(pyridin-3-yl) pyrrolidin-2-one | C(C)(C)(C)NC(=O)OC1C(N(CC1)C=1C=NC=CC1)=O | C14H19N3O3
